US08304216B2
The reducing activity against ethyl N-Boc-2-amino-3-cyclohexyl-3-oxopropionate was calculated in the following manner. First, an appropriate amount of a crude enzyme solution and 100 mM phosphate buffer (pH 6.5) were added to a test tube to make a total volume of 0.5 ml. Further, 0.25 mg of ethyl N-Boc-2-amino-3-cyclohexyl-3-oxopropionate and 1 mg of NADH were added, and the reaction was allowed to proceed at 30° C. for 2 hours with shaking. After the reaction, 1 ml of ethyl acetate was added and extraction was carried out. The quantitation of the product ethyl N-Boc-2-amino-3-cyclohexyl-3-hydroxypropionate was carried by capillary gas chromatography (column: GL Sciences InertCAP 5 (ID 0.25 mm×30 m), column temperature: 200° C.; carrier gas: helium (70 kPa), detection: FID). The enzyme activity was calculated from the amount of the ethyl N-Boc-2-amino-3-cyclohexyl-3-hydroxypropionate formed. The activity such that 1 μmol of ethyl N-Boc-2-amino-3-cyclohexyl-3-hydroxypropionate is formed in 1 minute under the reaction conditions mentioned above is defined as 1 unit.

reactant | ethyl N-Boc-2-amino-3-cyclohexyl-3-oxopropionate | C(=O)(OC(C)(C)C)NC(C(=O)OCC)C(=O)C1CCCCC1 | C16H27NO5
reactant | phosphate | 100 mM, pH 6.5 | P(=O)([O-])([O-])[O-]
reactant | ethyl N-Boc-2-amino-3-cyclohexyl-3-oxopropionate | 0.25 mg | C(=O)(OC(C)(C)C)NC(C(=O)OCC)C(=O)C1CCCCC1 | C16H27NO5
reactant | NADH | 1 mg | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | ethyl N-Boc-2-amino-3-cyclohexyl-3-hydroxypropionate | 1 μmol | C(=O)(OC(C)(C)C)NC(C(=O)OCC)C(O)C1CCCCC1 | C16H29NO5
